US06251936B1
2-Cyclopentyl-4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-phenol
To acetic acid 2-cyclopentyl-4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-phenyl ester (2.7 g, 5.4 mmol) in tetrahydrofuran (88 mL) and methanol (30 mL) at room temperature was added dropwise an aqueous potassium hydroxide (6.5 mL of a 1N solution, 6.5 mmol). After 1.5 h the reaction mixture was concentrated under reduced pressure. The resulting residue was combined with water (200 mL) and acidified with 10% aqueous hydrochloric acid to a pH of 1. The solution was extracted with diethyl ether (300 mL) and the diethyl ether layer was washed twice with water and dried (Na2SO4). Concentration under reduced pressure gave the title compound as a white solid (2.4 g, 100%): (DMSO-d6): δ9.54 (s, 1H), 8.16 (d, 1H), 7.61 (m, 1H), 7.52 (s, 1H), 7.43 (m, 1H), 7.03 (s, 1H), 6.93 (m, 2H), 3.32 (m, 1H), 2.41 (s, 3H), 1.94 (m, 2H), 1.58 (s, 3H), 1.72-1.42 (m, 6H); MS(EI): [M+], 1 bromine isotope pattern, 450/452; Anal. Calc. for C25H23BrOS: C, 66.52; H, 5.13; N, 0.00. Found: C, 67.17; H, 5.25; N, 0.04.

reactant | acetic acid 2-cyclopentyl-4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-phenyl ester | 5.4 mmol, 2.7 g | C1(CCCC1)C1=C(C=CC(=C1)C1=C2C=CC=CC2=C(C=2SC(=C(C21)C)C)Br)OC(C)=O | C27H25BrO2S
reactant | potassium hydroxide | [OH-].[K+]
solvent | tetrahydrofuran | 88 mL | O1CCCC1 | C4H8O
solvent | methanol | 30 mL | CO | CH4O
product | 2-Cyclopentyl-4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-phenol | 2.4 g, 100% | C1(CCCC1)C1=C(C=CC(=C1)C1=C2C=CC=CC2=C(C=2SC(=C(C21)C)C)Br)O | C25H23BrOS
